US07947706B2
87 mg of solid yellow 3-{4-[3-(2,5-dimethylphenyl)ureido]phenyl}-1H-pyrrolo-[2,3-c]pyridine-2-carboxamide are prepared as described in Example 1 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide and 2,5-dimethylphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | 2,5-dimethylphenyl isocyanate | CC1=C(C=C(C=C1)C)N=C=O | C9H9NO
product | 3-{4-[3-(2,5-dimethylphenyl)ureido]phenyl}-1H-pyrrolo-[2,3-c]pyridine-2-carboxamide | CC1=C(C=C(C=C1)C)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O | C23H21N5O2
